US08022222B2
Benzoyl isothiocyanate (1.63 g, 10.0 mmol) is added to a solution of 5-bromo-4-(2,6-difluorophenoxy)pyridin-2-amine (3.01 g, 10 mmol) in dichloromethane (20 mL) at 0° C. The reaction mixture is warmed to room temperature and stirred for one hour. The reaction mixture is diluted with hexanes and filtered to afford N-(5-bromo-4-(2,6-difluorophenoxy)pyridin-2-ylcarbamothioyl)benzamide.

reactant | Benzoyl isothiocyanate | 10.0 mmol, 1.63 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 5-bromo-4-(2,6-difluorophenoxy)pyridin-2-amine | 10 mmol, 3.01 g | BrC=1C(=CC(=NC1)N)OC1=C(C=CC=C1F)F | C11H7BrF2N2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(5-bromo-4-(2,6-difluorophenoxy)pyridin-2-ylcarbamothioyl)benzamide | BrC=1C(=CC(=NC1)NC(=S)NC(C1=CC=CC=C1)=O)OC1=C(C=CC=C1F)F | C19H12BrF2N3O2S
